* c:\Users\maurovlachus\OneDrive - Technical University of Cluj-Napoca\utcn\master\caa\proiect\p1_opamps\ekvParameterExtraction\clm_extraction\id_vds_graph\ltspice\ekvParameterExtractionEdited.asc
V1 vdd 0 3.3
M1 vdd vg 0 0 N_130n l=1.0u w=2.0u ad=400.0f as=400.0f pd=4.4u ps=4.4u m=1 l=1.0u w=2.0u ad=400.0f as=400.0f pd=4.4u ps=4.4u m=1
M2 0 vg vdd vdd P_130n l=1.0u w=6.0u ad=1.2p as=1.2p pd=12.4u ps=12.4u m=1
V2 vg 0 1.4
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\maurovlachus\AppData\Local\LTspice\lib\cmp\standard.mos
.model N_130n nmos
*+ binflag = 0
+ mobmod = 1
+ capmod = 2
+ nqsmod = 0
+ vth0 = 0.332
+ nch = 5.6000000e+17
+ nlx = 3.5500000e-07
+ k1 = 0.3661500
+ k2 = 0.00
+ k3 = 0.00
+ k3b = 0.00
+ w0 = 0.00
+ dvt0w = 0.00
+ dvt1w = 0.00
+ dvt2w = 0.00
+ dvt0 = 8.7500000
+ dvt1 = 0.7000000
+ dvt2 = 5.0000000e-02
+ eta0 = 4.0000000e-02
+ etab = 0.00
+ dsub = 0.5200000
+ ua = -1.8000000e-09
+ ub = 2.2000000e-18
+ uc = -2.9999999e-11
+ a0 = 2.1199999
+ ags = -0.1000000
+ b0 = 0.00
+ b1 = 0.00
+ keta = 4.0000000e-02
+ voff = -7.9800000e-02
+ vsat = 1.3500000e+05
+ a1 = 0.00
+ a2 = 0.9900000
+ rdsw = 200
+ prwg = 0.00
+ prwb = 0.00
+ wr = 1.0000000
+ nfactor = 1.1000000
+ cit = 0.00
+ cdsc = 0.00
+ cdscd = 0.00
+ cdscb = 0.00
+ pclm = 0.1000000
+ pdiblc1 = 1.2000000e-02
+ pdiblc2 = 7.5000000e-03
+ pdiblcb = -1.3500000e-02
+ drout = 0.2800000
+ pscbe1 = 8.6600000e+08
+ pscbe2 = 1.0000000e-20
+ pvag = -0.2800000
+ alpha0 = 0.00
+ beta0 = 30.0000000
+ ckappa = 0.8912
+ cf = 1.113e-10
+ clc = 5.475e-08
+ cle = 6.46
+ cgsl = 1.1155e-10
+ cgdl = 1.1155e-10
+ wint = { (0.00-(0/2)) }
+ wln = 0.00
+ ww = 0.00
+ wl = 0.00
+ wwn = 1.0000000
+ wwl = 0.00
+ dwg = 0.00
+ dwb = 0.00
+ lint = { (2.5e-08-(0/2)) }
+ ll = 0.00
+ lln = 1.0000000
+ lw = 0.00
+ lwn = 0.00
+ lwl = 0.00
+ dlc = 2e-08
+ dwc = 0
+ kt1 = -0.3400000
+ kt1l = 4.0000000e-09
+ kt2 = -5.2700000e-02
+ ute = -1.2300000
+ ua1 = -8.6300000e-10
+ ub1 = 2.0000001e-18
+ uc1 = 0.00
+ at = 0.00
+ prt = 0.00
+ xti = 3.0
+ lmin = 1.3e-7
+ lmax = 1.3e-7
+ wmin = 1.3e-7
+ wmax = 1.0e-4
+ binunit = 2
+ elm = 5
+ xpart = 1
+ level = 7
+ js = 2.50e-08
+ jsw = 4.00e-13
+ n = 1.0
+ cj = 0.0015
+ cjsw = 2e-10
+ mj = 0.7175511
+ mjsw = 0.3706993
+ pb = 1.24859
+ pbsw = 0.7731149
+ rd = 0
+ rs = 0
+ xj = 4.5000000e-08
+ ngate = 5.0000000e+20
+ tox = 3.3e-09
+ cgbo = 0.0e+00
+ cgdo = 2.75e-10
+ cgso = 2.75e-10
*+ kp = { ((3.453e-11*1.3400000e-02)/3.3e-09) }
+ delta = 1.0100000e-02
+ u0 = 1.3400000e-02
.model P_130n pmos
*+ binflag = 0
+ mobmod = 1
+ capmod = 2
+ nqsmod = 0
+ vth0 = -0.3499
+ nch = 6.8500000e+18
+ nlx = 1.6500000e-07
+ k1 = 0.4087000
+ k2 = 0.00
+ k3 = 0.00
+ k3b = 0.00
+ w0 = 0.00
+ dvt0w = 0.00
+ dvt1w = 0.00
+ dvt2w = 0.00
+ dvt0 = 5.0000000
+ dvt1 = 0.2600000
+ dvt2 = -1.0000000e-02
+ eta0 = 80.0000000
+ etab = 0.00
+ dsub = 1.8500000
+ ua = -1.4000000e-09
+ ub = 1.9499999e-18
+ uc = -2.9999999e-11
+ a0 = 2.1199999
+ ags = 0.1000000
+ b0 = 0.00
+ b1 = 0.00
+ keta = 3.0300001e-02
+ voff = -9.10000000e-02
+ vsat = 1.0500000e+05
+ a1 = 0.00
+ a2 = 0.4000000
+ rdsw = 400
+ prwg = 0.00
+ prwb = 0.00
+ wr = 1.0000000
+ nfactor = 0.1250000
+ cit = 2.7999999e-03
+ cdsc = 0.00
+ cdscd = 0.00
+ cdscb = 0.00
+ pclm = 2.5000000
+ pdiblc1 = 4.8000000e-02
+ pdiblc2 = 5.0000000e-05
+ pdiblcb = 0.1432509
+ drout = 9.0000000e-02
+ pscbe1 = 1.0000000e-20
+ pscbe2 = 1.0000000e-20
+ pvag = -6.0000000e-02
+ alpha0 = 0.00
+ beta0 = 30.0000000
+ ckappa = 0.8912
+ cf = 1.113e-10
+ clc = 5.475e-08
+ cle = 6.46
+ cgsl = 1.1155e-10
+ cgdl = 1.1155e-10
+ wint = { (0.00-(0/2)) }
+ wln = 0.00
+ ww = 0.00
+ wl = 0.00
+ wwn = 0.00
+ wwl = 0.00
+ dwg = 0.00
+ dwb = 0.00
+ lint = { (2.e-08-(0/2)) }
+ ll = 0.00
+ lln = 0.00
+ lw = 0.00
+ lwn = 0.00
+ lwl = 0.00
+ dlc = 2e-08
+ dwc = 0
+ kt1 = -0.3400000
+ kt1l = 4.0000000e-09
+ kt2 = -5.2700000e-02
+ ute = -1.2300000
+ ua1 = -8.6300000e-10
+ ub1 = 2.0000001e-18
+ uc1 = 0.00
+ at = 0.00
+ prt = 0.00
+ xti = 3.0
+ lmin = 1.3e-7
+ lmax = 1.3e-7
+ wmin = 1.3e-7
+ wmax = 1.0e-4
+ binunit = 2
+ elm = 5
+ xpart = 1
+ level = 7
+ js = 2.50e-08
+ jsw = 4.00e-13
+ n = 1.0
+ cj = 0.0015
+ cjsw = 2e-10
+ mj = 0.7175511
+ mjsw = 0.3706993
+ pb = 1.24859
+ pbsw = 0.7731149
+ rd = 0
+ rs = 0
+ xj = 4.5000000e-08
+ ngate = 5.0000000e+20
+ tox = 3.3e-09
+ cgbo = 0.0e+00
+ cgdo = 2.75e-10
+ cgso = 2.75e-10
*+ kp = { ((3.453e-11*5.2000000e-03)/3.3e-09) }
+ delta = 1.0100000e-02
+ u0 = 5.2000000e-03
.dc V1 0.2 3.3 0.030999999999999996
.backanno
.end
